US05912247
A solution of 4-[(1S,4R)-(4-acetoxycyclopent-2-en-1-yl)oxy]-2-[4-(benzyloxycarbonyl)piperazin-1-yl]quinazoline (2.30 g) and 2N aqueous sodium hydroxide (4.9 ml) in acetone (20 ml) is stirred at room temperature for 18 hours. Acetone is distilled off from the reaction mixture under reduced pressure, and thereto is added ethyl acetate, and the mixture is washed with water, and then dried over anhydrous magnesium sulfate. The solution is evaporated to dryness under reduced pressure, and the resulting residue is purified by medium pressure liquid column chromatography [eluent, chloroform, (chloroform:methanol=200 1, v/v)] to give 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1S,4R)-(4-hydroxycyclopent-2-en-1-yl)oxy]quinazoline (1.26 g) as crystals.

reactant | 4-[(1S,4R)-(4-acetoxycyclopent-2-en-1-yl)oxy]-2-[4-(benzyloxycarbonyl)piperazin-1-yl]quinazoline | 2.30 g | C(C)(=O)O[C@H]1C=C[C@H](C1)OC1=NC(=NC2=CC=CC=C12)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C27H28N4O5
reactant | sodium hydroxide | 2N, 4.9 ml | [OH-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1S,4R)-(4-hydroxycyclopent-2-en-1-yl)oxy]quinazoline | 1.26 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)O[C@@H]1C=C[C@@H](C1)O | C25H26N4O4
